US09163012B2
To a stirred solution of (R)-tert-butyl 3-(5-chloro-3-nitropyridin-2-ylamino)pyrrolidine-1-carboxylate (802 mg, 2.34 mmol) in MeOH (25 mL) and water (25 mL) were added iron dust (2.00 g, 35 mmol) and NH4Cl (1.25 g, 2.4 mmol). The mixture was heated at reflux for 6 h and filtered through Celite, washing with EtOAc. The filtrate was concentrated and the residue was dissolved in CH2Cl2 (150 mL) and 1 M aq NaOH (50 mL). The layers were separated and the aqueous layer was extracted with CH2Cl2 (50 mL). The combined CH2Cl2 layer was washed with brine (50 mL), dried over Na2SO4 and concentrated to leave (R)-tert-butyl 3-(3-amino-5-chloropyridin-2-ylamino)pyrrolidine-1-carboxylate (680 mg, 93%) as a black solid. LC-MS Method 1 tR=1.28 min, m/z=313, 257.

reactant | (R)-tert-butyl 3-(5-chloro-3-nitropyridin-2-ylamino)pyrrolidine-1-carboxylate | 2.34 mmol, 802 mg | ClC=1C=C(C(=NC1)N[C@H]1CN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C14H19ClN4O4
reactant | NH4Cl | 2.4 mmol, 1.25 g | [NH4+].[Cl-]
solvent | MeOH | 25 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
catalyst | iron | 35 mmol, 2.00 g | [Fe] | Fe
product | (R)-tert-butyl 3-(3-amino-5-chloropyridin-2-ylamino)pyrrolidine-1-carboxylate | 680 mg, 93% | NC=1C(=NC=C(C1)Cl)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C14H21ClN4O2
